US07820707B2
2-(2-(4-(1-hydroxyethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide
To 2-(2-(4-formyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide (1.6 g, 4.00 mmol) in THF (10 mL) at −50° C. under an argon atmosphere was added 3M methylmagnesium bromide in diethyl ether (1.249 mL, 3.75 mmol) in a dropwise manner over 10 min. The reaction was stirred at −50° C. for 1.5 h. The reaction was quenched with saturated aqueous NH4Cl before partitioning between EtOAc/water (×2), and washing with EtOAc (×1) and brine (×1). The organics were dried over MgSO4 before removing the solvent in vacuo. The residue was purified by silica gel flash chromatography (1:2 heptane/EtOAc) and the solvent removed in vacuo to give the title compound as a yellow solid (0.8 g, 1.921 mmol, 48%).

reactant | 2-(2-(4-formyl-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 4.00 mmol, 1.6 g | C(=O)C=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N)C(F)(F)F | C16H15F3N4O3S
reactant | methylmagnesium bromide | 3M | C[Mg]Br
reactant | diethyl ether | 3.75 mmol, 1.249 mL | C(C)OCC | C4H10O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2-(4-(1-hydroxyethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)acetamido)-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxamide | 1.921 mmol, 0.8 g, 48% | OC(C)C=1C(=NN(C1)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)N)C(F)(F)F | C17H19F3N4O3S
